US05011628
a. N,N'-Bis(4-ethoxycarbonylphenyl)benzamidine hydrochloride, 16
To a stirred suspension of ethyl 4-aminobenzoate (165.0 g; 1.0 mole) in xylene (465 mL) was added α,α,α-trichlorotoluene (100.7 g; 0.52 mole). The mixture was allowed to reflux for 18 h, then was cooled to 0° C. and filtered. The resultant precipitate was washed with ice-cold xylene (2×70 mL), triturated with hot toluene and dried to yield the salt (89.8 g; 39.7%) as white crystals: mp 214.0°-215.5° C. 1H-NMR (CDCl3) 8.0-6.9 (m, 14H), 4.3 (q, 4H, J=7 Hz), 1.4 (t, 6H, J=7 Hz); IR (CHCl3) 1715, 1600; MS (m/e) 416 (M+ -HCl), 252 (base).

reactant | ethyl 4-aminobenzoate | 1.0 mole, 165.0 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | α,α,α-trichlorotoluene | 0.52 mole, 100.7 g | ClC(C1=CC=CC=C1)(Cl)Cl | C7H5Cl3
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | HCl | Cl | ClH
solvent | xylene | 465 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N,N'-Bis(4-ethoxycarbonylphenyl)benzamidine hydrochloride | Cl.C(C)OC(=O)C1=CC=C(C=C1)NC(C1=CC=CC=C1)=NC1=CC=C(C=C1)C(=O)OCC | InChI=1S/C25H24N2O4.ClH/c1-3-30-24(28)19-10-14-21(15-11-19)26-23(18-8-6-5-7-9-18)27-22-16-12-20(13-17-22)25(29)31-4-2;/h5-17H,3-4H2,1-2H3,(H,26,27);1H
